US06352976B1
6.3 Synthesis of 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide
Combine (L)-phenylalanine N-methyl amide trifluoroacetic acid salt (0.22 g, 0.75 mmol) and N-methylmorpholine (0.09 mL, 0.83 mmol) in dichloromethane (5 mL). After 15 minutes, add 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine (0.18 g, 0.45 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.086 g, 0.45 mmol) and hydroxybenzotriazole (0.060 g, 0.45 mmol). After 18 hours, partition the reaction mixture between ethyl acetate and an aqueous 5% sulfuric acid solution. Separate the layers, extract the organic layer with a saturated sodium bicarbonate solution and then brine. Dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 4% methanol/dichloromethane to give the title compound.

reactant | (L)-phenylalanine N-methyl amide trifluoroacetic acid salt | 0.75 mmol, 0.22 g | FC(C(=O)O)(F)F.CNC([C@@H](N)CC1=CC=CC=C1)=O
reactant | N-methylmorpholine | 0.83 mmol, 0.09 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanine | 0.45 mmol, 0.18 g | COC1=CC=C(CSC(C(=O)N[C@@H](CCC2=CC=CC=C2)C(=O)O)CCC)C=C1 | C23H29NO4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.45 mmol, 0.086 g | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole | 0.45 mmol, 0.060 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
product | 2-(4-methoxybenzylthio)-pentanoyl-(L)-homophenylalanyl-(L)-phenylalanine N-methyl amide | CNC([C@@H](NC([C@@H](NC(C(CCC)SCC1=CC=C(C=C1)OC)=O)CCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C33H41N3O4S
